US08217028B2
To a solution of ethyl 1-{2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]ethyl}-4-piperidinecarboxylate (D91) (30 mg) in THF (5 mL) was added aqueous NaOH (2 M, 1 mL). The reaction was stirred at 50° C. for 5 h. The mixture was cooled to room temperature and acidified with aqueous HCl (2 M) to pH 4-5, partitioned between ethyl acetate (50 mL) and water (50 mL). The organic phase was washed with water (50 mL) and brine (50 mL), dried over sodium sulphate and evaporated to give the crude product, which was purified by Mass Directed Auto Prep to afford 1-{2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]ethyl}-4-piperidinecarboxylic acid (E66) (1.8 mg, TFA salt). δH (DMSO-d6, 400 MHz): 1.36 (6H, d), 1.75 (2H, m), 1.91 (1H, m), 2.11 (2H, m), 3.11 (4H, m), 3.48 (4H, m), 3.65 (3H, s), 4.89 (1H, m), 7.23 (1H, t), 7.33 (1H, s), 7.47 (2H, m), 7.87 (1H, dd), 8.12 (1H, dd), 8.19 (1H, d), 9.24 (1H, br s), 12.56 (1H, br s). MS (ES): C28H31ClN4O4 requires 522; found 523.2 (M+H+).

reactant | ethyl 1-{2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]ethyl}-4-piperidinecarboxylate | 30 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)CCN1CCC(CC1)C(=O)OCC | C30H35ClN4O4
reactant | NaOH | 2 M, 1 mL | [OH-].[Na+]
reactant | HCl | 2 M | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-{2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1-methyl-1H-indol-3-yl]ethyl}-4-piperidinecarboxylic acid | 1.8 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CN(C12)C)CCN1CCC(CC1)C(=O)O | C28H31ClN4O4
